US05053514
A suspension of 6-(2,3-epoxypropoxy)carbostyril (15 g) and N-methylbenzylamine (11 g) in methanol (150 ml) is heated with refluxing for 2.5 hours. From the mixture, methanol is distilled off under reduced pressure, and to the resulting residue is added diethylether and the precipitated crystals are collected by filtration. The crystals thus obtained are purified by silica gel column chromatography (solvent; methanol:chloroform=1:100-1:25), and recrystallized from ethanol to give 6-[3-(N-methyl-N-benzylamino)-2-hydroxypropoxy]carbostyril (7.6 g), as white powder, m.p. 129°-132° C.

reactant | 6-(2,3-epoxypropoxy)carbostyril | 15 g | O1C(COC=2C=C3C=CC(NC3=CC2)=O)C1 | C12H11NO3
reactant | N-methylbenzylamine | 11 g | CNCC1=CC=CC=C1 | C8H11N
solvent | methanol | 150 ml | CO | CH4O
product | 6-[3-(N-methyl-N-benzylamino)-2-hydroxypropoxy]carbostyril | 7.6 g | CN(CC1=CC=CC=C1)CC(COC=1C=C2C=CC(NC2=CC1)=O)O | C20H22N2O3
